US09212182B2
A 40-mL vial containing 5-bromo-2-(3-fluorophenyl)-4-methoxypyridine (0.420 g, 1.489 mmol), (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (0.560 g, 1.787 mmol), Xantphos (0.172 g, 0.298 mmol), cesium carbonate (0.679 g, 2.084 mmol), and Pd2(dba)3 (0.136 g, 0.149 mmol) was flushed with N2 and charged with CPME (3 mL). After stirring overnight at 90° C., additional Pd2(dba)3 (0.136 g, 0.149 mmol) and Xantphos (0.172 g, 0.298 mmol) was added. After stirring an additional 4 h, the reaction was cooled to rt, quenched with H2O and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a brown-black oil. Column chromatography (50 g Snap Ultra column, 0% to 80% EtOAc/hept) afforded (E)-ethyl 3-(5-(benzylthio)-2-((6-(3-fluorophenyl)-4-methoxypyridin-3-yl)amino)phenyl)acrylate (0.615 g, 1.195 mmol, 80% yield) as a yellow oil. m/z (ESI) 515.2 (M+H)+.

reactant | 5-bromo-2-(3-fluorophenyl)-4-methoxypyridine | 1.489 mmol, 0.420 g | BrC=1C(=CC(=NC1)C1=CC(=CC=C1)F)OC | C12H9BrFNO
reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 1.787 mmol, 0.560 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | Xantphos | 0.298 mmol, 0.172 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 2.084 mmol, 0.679 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.298 mmol, 0.172 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.149 mmol, 0.136 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.149 mmol, 0.136 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-ethyl 3-(5-(benzylthio)-2-((6-(3-fluorophenyl)-4-methoxypyridin-3-yl)amino)phenyl)acrylate | 1.195 mmol, 0.615 g, 80% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC=1C=NC(=CC1OC)C1=CC(=CC=C1)F | C30H27FN2O3S
